US06544985B2
8-(Isopropyl-methyl-amino)-2-[3-(3-methyl-isoxazol-5-yl)-phenyl]-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile
The title compound was prepared from (4-cyano-5-(isopropyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M9;) (0.37 g, 0.70 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (219 mg, 76%).

reactant | (4-cyano-5-(isopropyl-methyl-amino)-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.70 mmol, 0.37 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C#N)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C29H33N5O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(Isopropyl-methyl-amino)-2-[3-(3-methyl-isoxazol-5-yl)-phenyl]-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile | C(C)(C)N(C=1C(=CC2=C(N=C(CC(N2)=O)C2=CC(=CC=C2)C2=CC(=NO2)C)C1)C#N)C | C24H23N5O2
